US07741327B2
A mixture of (S)-4-(t-butyl-dimethyl-silanyloxy)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-butyric acid methyl ester (250 mg, 0.57 mmol) in a 1:1 solution of tetrahydrofuran:water (8 mL) was treated with lithium hydroxide monohydrate (48 mg, 1.14 mmol) and stirred for 1.5 h at 25° C. After such time, the mixture was concentrated in vacuo to remove the tetrahydrofuran and diluted with water (10 mL) and the pH adjusted to pH=5 with 1N aqueous hydrochloric acid and extracted with ethyl acetate. The organic layers were then dried and concentrated in vacuo to afford (S)-4-(t-butyl-dimethyl-silanyloxy)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-butyric acid (195 mg, 81%) as an off-white foam: HR-ES-MS m/z calculated for C20H28NO5ClSi [M+H]+ 426.1498, observed 426.1498.

reactant | (S)-4-(t-butyl-dimethyl-silanyloxy)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-butyric acid methyl ester | 0.57 mmol, 250 mg | COC([C@H](CCO[Si](C)(C)C(C)(C)C)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O | C21H30ClNO5Si
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 1.14 mmol, 48 mg | O.[OH-].[Li+]
solvent | water | 8 mL | O | H2O
product | (S)-4-(t-butyl-dimethyl-silanyloxy)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-butyric acid | 195 mg, 81% | C(C)(C)(C)[Si](OCC[C@@H](C(=O)O)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)(C)C | C20H28ClNO5Si
